US06329381B1
6-Amino-9-benzyl-8-bromo-2-(isobutylamino)purine
6-Amino-9-benzyl-2-(isobutylamino)purine (75 mg, 0.25 mmol) and bromine (0.5 ml) were dissolved in 50 ml of methylene chloride and the solution was stirred at room temperature for 1 hour. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on sodium sulfate and filtered. The solvent of the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (62 mg, yield 65%).

reactant | 6-Amino-9-benzyl-2-(isobutylamino)purine | 0.25 mmol, 75 mg | NC1=C2N=CN(C2=NC(=N1)NCC(C)C)CC1=CC=CC=C1 | C16H20N6
reactant | bromine | 0.5 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(isobutylamino)purine | 62 mg, yield 65% | NC1=C2N=C(N(C2=NC(=N1)NCC(C)C)CC1=CC=CC=C1)Br | C16H19BrN6
